US07297795B2
The present invention relates to a process for the preparation of a 4-amino-3-quinolinecarbonitrile comprising combining an amine compound with cyanoacetic acid and an acid catalyst to yield a cyanoacetamide; condensing the cyanoacetamide with an optionally up to tetra-substituted aniline in an alcoholic solvent and a trialkylorthoformate to yield a 3-amino-2-cyanoacrylamide, and then combining the 3-amino-2-cyanoacrylamide with phosphorus oxychloride in acetonitrile, butyronitrile, toluene or xylene, optionally in the presence of a catalyst to yield a 4-amino-3-quinolinecarbonitrile.

reactant | 3-amino-2-cyanoacrylamide | NC=C(C(=O)N)C#N | C4H5N3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | C(C)#N | C2H3N
solvent | butyronitrile | C(CCC)#N | C4H7N
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-amino-3-quinolinecarbonitrile | NC1=C(C=NC2=CC=CC=C12)C#N | C10H7N3
